US07223788B2
N-(2-Diethylaminoethyl)-N-[(R)-1-(4-nitrophenyl)pyrrolidin-3-yl]acetamide
Acetyl chloride (2.9 g) was dissolved in 50 ml of dry dichloromethane, mixed with 5.3 ml of triethylamine, and after addition of N,N-diethyl-N′-[(R)-1-(4-nitrophenyl)pyrrolidin-3-yl]-ethane-1,2-diamine (5.8 g), stirred at room temperature for 30 minutes. Subsequently, (LCMS check), water (10 ml) was added to the reaction, and the mixture was extracted with dichloromethane (2×10 ml). The combined organic phases were dried over magnesium sulfate, the solvent was removed, and the crude product was separated by chromatography on silica gel (dichloromethane/methanol 10:1). This resulted in the product with the molecular weight of 348.45 (C18H28N4O3); MS (ESI): 349 (M+H+).

reactant | Acetyl chloride | 2.9 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 5.3 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-diethyl-N′-[(R)-1-(4-nitrophenyl)pyrrolidin-3-yl]-ethane-1,2-diamine | 5.8 g | C(C)N(CCN[C@H]1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])CC | C16H26N4O2
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(2-Diethylaminoethyl)-N-[(R)-1-(4-nitrophenyl)pyrrolidin-3-yl]acetamide | C(C)N(CCN(C(C)=O)[C@H]1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])CC | C18H28N4O3
